US05990307
3-[[2-(Diethoxy-phosphoryl)-ethyl]-(2-ethoxy-3,4-dioxocyclobut-1-enyl)amino]propylcarbamic acid tert-butyl ester
To a solution of 3,4-diethoxy-3-cyclobutene-1,2-dione (45 g, 0.265 mole; Aldrich 31,077-8) in absolute ethanol (1.2 L) under nitrogen was added dropwise a solution of N-[3-(t-butyloxycarbonylamino)propyl]-2-aminoethylphosphonic acid diethyl ester (80 g, 0.24 mole) in absolute ethanol (600 mL) and the reaction mixture was stirred at ambient temperature 15 hr. The reaction mixture was concentrated in vacuo and the residue was put on a pad of silica gel (6"×4") and eluted first with a mixture of methylene chloride/hexane 1:1 to remove excessive 3,4-diethoxy-3-cyclobutene-1,2-dione and finally with 10% methanol/methylene chloride to yield the title compound after evaporation as a viscous oil (107 g, 96%).

reactant | 3,4-diethoxy-3-cyclobutene-1,2-dione | 0.265 mole, 45 g | C(C)OC=1C(C(C1OCC)=O)=O | C8H10O4
reactant | N-[3-(t-butyloxycarbonylamino)propyl]-2-aminoethylphosphonic acid diethyl ester | 0.24 mole, 80 g | C(C)OP(OCC)(=O)CCNCCCNC(=O)OC(C)(C)C | C14H31N2O5P
solvent | ethanol | 1.2 L | C(C)O | C2H6O
solvent | ethanol | 600 mL | C(C)O | C2H6O
product | 3-[[2-(Diethoxy-phosphoryl)-ethyl]-(2-ethoxy-3,4-dioxocyclobut-1-enyl)amino]propylcarbamic acid tert-butyl ester | C(C)(C)(C)OC(NCCCN(C1=C(C(C1=O)=O)OCC)CCP(=O)(OCC)OCC)=O | C20H35N2O8P
